US07678794B2
Synthesis of 3-{3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ureido}-benzoic acid
To 3-{3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ureido}-benzoic acid ethyl ester (200 mg, 0.40 mmol) in 1:1 tetrahydrofuran:methanol (10 mL) is added 2 N NaOH (5 mL). The reaction mixture is stirred vigorously at room temperature for 3 h. The reaction mixture is diluted with water (30 mL), acidified with 5N hydrochloric acid to pH=4, and extracted with ethyl acetate (3×70 mL). The combined organic extracts are washed with brine, dried over sodium sulfate, and concentrated to dryness. The resulting residue is purified by reverse phase HPLC using a gradient of 90:10 to 20:80 (H2O/0.1% TFA):CH3CN as eluent to give the title compound (24 mg, 12%). LC-MS (m/e): 461 (M−1); 1H NMR (DMSO-d6) δ 12.93 (1H, s), 12.85 (1 H, s), 8.93 (1 H, s), 8.77 (1 H, s), 8.15 (1H, s), 7.82 (1H, s), 7.30-7.60 (7 H, m), 6.75 (1H, d), 5.20 (2 H, s), 2.60 (5 H, m), 1.50 (2 H, m), 0.90 (3 H, t).

reactant | 3-{3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ureido}-benzoic acid ethyl ester | 0.40 mmol, 200 mg | C(C)OC(C1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C28H30N2O6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | NaOH | 2 N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | 30 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3-{3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ureido}-benzoic acid | 24 mg, 12% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)NC(NC=2C=C(C(=O)O)C=CC2)=O)C=C1)CCC)O | C26H26N2O6
